US08471005B2
{2-Methoxy-4-[4-(4-methyl-piperazin-1-yl)-piperidin-1-yl]-phenyl}-[7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-amine
A solution of 2-Methoxy-4-[4-(4-methyl-piperazin-1-yl)-piperidin-1-yl]-phenylamine (0.18 g, 0.00059 mol) with 2-methanesulfinyl-7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazine (85 mg, 0.30 mol) and N,N-diisopropylethylamine (0.057 g, 0.44 mmol) in 2-methoxyethanol (1.0 mL, 0.013 mol) in a microwave vessel was microwaved on 300 watts, 180° C. for 30 minutes. Repeated microwave for 30 minutes more to get to completion. Filtered through 0.45μ filter and purified by reverse phase HPLC. Concentrated and dissolved in DCM/MeOH and free-based with solid MP-carbonate. Filtered and concentrated {2-methoxy-4-[4-(4-methyl-piperazin-1-yl)-piperidin-1-yl]-phenyl}-[7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-amineisolated as a brownish film (12 mg, 8%). 1H-NMR (CDCl3) δ 8.69 (s, 1H), 8.24 (d, J=8.8 Hz, 1H), 8.03 (d, J=7.6 Hz, 1H), 7.44 (t, J=8.0, 1H), 7.31 (s, 1H), 7.14 (t, J=7.5, 1H), 7.08 (d, J=8.0, 1H), 7.03 (d, J=4.7 Hz, 1H), 6.83 (d, J=4.6 Hz, 1H), 6.57-6.45 (m, 1H), 6.46-6.43 (m, 1H), 3.89 (s, 3H), 3.62 (s, 3H), 3.64 (broad d, J=12.3 Hz, 2H), 2.72-2.66 (m, 4H), 2.55-2.51 (broad m, 3H), 1.97 (broad d, J=12.4 Hz, 2H), 1.78-1.72 (m, 2H), 1.32-1.20 (m, 2H), 0.94-0.85 (m, 2H); LC/MS (ESI+): 528 (M+H).

reactant | 2-Methoxy-4-[4-(4-methyl-piperazin-1-yl)-piperidin-1-yl]-phenylamine | 0.00059 mol, 0.18 g | COC1=C(C=CC(=C1)N1CCC(CC1)N1CCN(CC1)C)N | C17H28N4O
reactant | 2-methanesulfinyl-7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazine | 0.30 mol, 85 mg | CS(=O)C1=NN2C(C=N1)=CC=C2C2=C(C=CC=C2)OC | C14H13N3O2S
reactant | N,N-diisopropylethylamine | 0.44 mmol, 0.057 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2-methoxyethanol | 0.013 mol, 1.0 mL | COCCO | C3H8O2
product | {2-Methoxy-4-[4-(4-methyl-piperazin-1-yl)-piperidin-1-yl]-phenyl}-[7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-amine | COC1=C(C=CC(=C1)N1CCC(CC1)N1CCN(CC1)C)NC1=NN2C(C=N1)=CC=C2C2=C(C=CC=C2)OC | C30H37N7O2
